US09388161B2
A 100-mL round-bottom flask equipped with a balloon filled with air was charged with (5)-(6-bromo-5-hydroxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)(cyclopropyl)methanone (0.800 g, 2.58 mmol), phenylboronic acid (0.937 g, 7.68 mmol), pyridine (0.83 mL, 10.30 mmol), dichloromethane (50 mL), and copper (II) acetate (0.934 g, 5.14 mmol). The resulting mixture stirred at 40° C. for 1 day. The mixture was cooled to room temperature and filtered. The filtrate was concentrated under vacuum, and the residue was purified via column chromatography on silica gel (gradient elution with 5-10% ethyl acetate/petroleum ether) to afford (S)-(6-bromo-2-methyl-5-phenoxy-3,4-dihydroquinolin-1(2H)-yl)(cyclopropyl)methanone (0.700 g, 70%) as a white solid. MS (ESI, pos. ion) m/z 386, 388 [M+H]+.

reactant | (5)-(6-bromo-5-hydroxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)(cyclopropyl)methanone | 2.58 mmol, 0.800 g | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(=O)C1CC1)C)O | C14H16BrNO2
reactant | phenylboronic acid | 7.68 mmol, 0.937 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | pyridine | 10.30 mmol, 0.83 mL | N1=CC=CC=C1 | C5H5N
catalyst | copper (II) acetate | 5.14 mmol, 0.934 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (S)-(6-bromo-2-methyl-5-phenoxy-3,4-dihydroquinolin-1(2H)-yl)(cyclopropyl)methanone | 0.700 g, 70% | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(=O)C1CC1)C)OC1=CC=CC=C1 | C20H20BrNO2
